US09062015B2
FS1021 Preparation of 2-{1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]azepan-4-ylamino}ethanol
The preparation is carried out analogously to FS102 starting from 79 mg (0.245 mmol) of 2-[1-(6-bromopyridin-2-yl)azepan-4-ylamino]ethanol and 96 mg (0.257 mmol) of 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane. The product is purified by means of preparative HPLC and converted into the hydrochloride using methanolic HCl.

reactant | 2-[1-(6-bromopyridin-2-yl)azepan-4-ylamino]ethanol | 0.245 mmol, 79 mg | BrC1=CC=CC(=N1)N1CCC(CCC1)NCCO | C13H20BrN3O
reactant | 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane | 0.257 mmol, 96 mg | CC1(OB(OC1(C)C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C | C20H31BO2
product | 2-{1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]azepan-4-ylamino}ethanol | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCC(CCC1)NCCO)C | C27H39N3O
